US08808703B2
Step 3: (5)-tert-butyl 2-(2-aminobutoxy)acetate
To a solution of (S)-tert-butyl 2-(2-(tert-butoxycarbonylamino)butoxy)acetate (1 eq, from the previous step) in DCM (0.4 M) at room temperature was added a solution of 4 M HCl in dioxane (10 eq). The reaction was stirred for 2 hours, at which time more 4 M HCl in dioxane (3 eq) was added and stirred for 1 hour. The reaction mixture was concentrated en vaccuo to give the product as an oil. The material was carried onto the next step without further purification.

reactant | (S)-tert-butyl 2-(2-(tert-butoxycarbonylamino)butoxy)acetate | C(C)(C)(C)OC(=O)N[C@H](COCC(=O)OC(C)(C)C)CC | C15H29NO5
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 10 eq | O1CCOCC1 | C4H8O2
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 3 eq | O1CCOCC1 | C4H8O2
solvent | DCM | 0.4 M | C(Cl)Cl | CH2Cl2
product | (5)-tert-butyl 2-(2-aminobutoxy)acetate | N[C@H](COCC(=O)OC(C)(C)C)CC | C10H21NO3
